US07390907B2
A solution of 4-[6-(4-trifluoromethyl-phenyl)-pyrazin-2-yloxy]-benzothiazol-2-ylamine (42 mg, 0.11 mmol), acetic anhydride (50 uL, 0.53 mmol) and pyridine (2 mL) was heated at 70° C. for 18 h. The solution was concentrated under a N2 stream and the resulting solid was purified by prep LC (10-90% CH3CN/H2O modified with 0.1% TFA) to give N-{4-[6-(4-trifluoromethyl-phenyl)-pyrazin-2-yloxy]-benzothiazol-2-yl}-acetamide as a white solid [MS (ESI, pos. ion) m/z: 431 (M+1)].

reactant | 4-[6-(4-trifluoromethyl-phenyl)-pyrazin-2-yloxy]-benzothiazol-2-ylamine | 0.11 mmol, 42 mg | FC(C1=CC=C(C=C1)C1=CN=CC(=N1)OC1=CC=CC2=C1N=C(S2)N)(F)F | C18H11F3N4OS
reactant | acetic anhydride | 0.53 mmol, 50 uL | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | N-{4-[6-(4-trifluoromethyl-phenyl)-pyrazin-2-yloxy]-benzothiazol-2-yl}-acetamide | FC(C1=CC=C(C=C1)C1=CN=CC(=N1)OC1=CC=CC2=C1N=C(S2)NC(C)=O)(F)F | C20H13F3N4O2S
